US06159967
N,N-Dimethyl-4-phenylpiperidine-4-carboxamide hydrochloride
900 mg (2.7 mmole) of N,N-dimethyl-1-t-butoxycarbonyl-4-phenylpiperidine-4-carboxamide (prepared as described in Preparation 1) were dissolved in 10 ml of ethyl acetate, and 5 ml of a 4 N solution of hydrogen chloride in dioxane were added, whilst ice-cooling. The mixture was then stirred at 0° C. for 1 hour. At the end of this time, the crystals which had deposited were collected by filtration, to give 690 mg (yield 95%) of the title compound as white crystals.

reactant | N,N-dimethyl-1-t-butoxycarbonyl-4-phenylpiperidine-4-carboxamide | 2.7 mmole, 900 mg | CN(C(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C | C19H28N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N,N-Dimethyl-4-phenylpiperidine-4-carboxamide hydrochloride | 690 mg, yield 95% | Cl.CN(C(=O)C1(CCNCC1)C1=CC=CC=C1)C | InChI=1S/C14H20N2O.ClH/c1-16(2)13(17)14(8-10-15-11-9-14)12-6-4-3-5-7-12;/h3-7,15H,8-11H2,1-2H3;1H
